US07288553B2
2-(6-Chloro-5-fluoro-1-methanesulfonyl-1H-indol-2-yl)-1-ethylsulfanyl-propan-2-ol
To a 50 mL round-bottom flask were added N-(5-chloro-4-fluoro-2-iodo-phenyl)-methanesulfonamide (0.30 g, 1.0 mmol), bis(triphenylphosphine) palladium(II) chloride (35 mg, 0.05 mmol) and copper (I) iodide (19 mg, 0.1 mmol). The flask was fitted with a septum and stirred under argon. Tetrahydrofuran (5 mL) and triethylamine (0.28 mL, 2.0 mmol) were then added via syringe. 1-Ethylsulfanyl-2-methyl-but-3-yn-2-ol (0.14 g, 1.0 mmol) in tetrahydrofuran (1 mL) was added via syringe and the reaction maintained with stirring at 50-60° C. for four hours. The solution was evaporated and the residue purified by column chromatography using dichloromethane as solvent to yield the title compound as a brown oil.

reactant | N-(5-chloro-4-fluoro-2-iodo-phenyl)-methanesulfonamide | 1.0 mmol, 0.30 g | ClC=1C(=CC(=C(C1)NS(=O)(=O)C)I)F | C7H6ClFINO2S
reactant | triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | 1-Ethylsulfanyl-2-methyl-but-3-yn-2-ol | 1.0 mmol, 0.14 g | C(C)SCC(C#C)(O)C | C7H12OS
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine) palladium(II) chloride | 0.05 mmol, 35 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper (I) iodide | 0.1 mmol, 19 mg | [Cu]I
solvent | Tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-(6-Chloro-5-fluoro-1-methanesulfonyl-1H-indol-2-yl)-1-ethylsulfanyl-propan-2-ol | ClC1=C(C=C2C=C(N(C2=C1)S(=O)(=O)C)C(CSCC)(C)O)F | C14H17ClFNO3S2
